US07060844B2
To a solution of [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid (100 mg, 0.325 mmol) and triethylamine (58.9 μl, 0.423 mmol) in THF (3.0 ml) was added chloroethylformate (35.7 μl, 0.374 mmol). The mixture was stirred at room temperature for 25 minutes, and then concentrated NH4OH (3.0 ml) was added. After stirring for 8 minutes at room temperature, the reaction was partitioned between 4% HCl aqueous solution, and EtOAc. The organic layer was then washed with saturated NaHCO3 aqueous solution, water, dilute HCl aqueous solution, brine, dried with anhydrous Na2SO4 and rotary evaporated to yield a solid. The solid was recrystallized from CHCl3/MeOH to give 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetamide as a yellow-gold solid (34.4 mg, 35%).

reactant | [3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid | 0.325 mmol, 100 mg | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CC(=O)O | C18H13NO4
reactant | triethylamine | 0.423 mmol, 58.9 μl | C(C)N(CC)CC | C6H15N
reactant | chloroethylformate | 0.374 mmol, 35.7 μl | ClCCOC=O | C3H5ClO2
reactant | NH4OH | 3.0 ml | [NH4+].[OH-]
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
product | 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetamide | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CC(=O)N | C18H14N2O3
